US06974870B2
(2-Benzylcarbamoyl-2-hydroxy-ethyl)-carbamic acid benzyl ester (372.4 mg, 1.134 mmol) was dissolved into 3 mL of MeOH and added 10% Pd/C (100 mg) and placed under balloon pressure H2 overnight. Filtered the reaction mixture through diatomaceous earth and concentrated on a rotary evaporator to give 169 mg, 76.7% of 3-amino-N-benzyl-2-hydroxy-propionamide.

reactant | (2-Benzylcarbamoyl-2-hydroxy-ethyl)-carbamic acid benzyl ester | 1.134 mmol, 372.4 mg | C(C1=CC=CC=C1)OC(NCC(O)C(NCC1=CC=CC=C1)=O)=O | C18H20N2O4
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | MeOH | 3 mL | CO | CH4O
product | 3-amino-N-benzyl-2-hydroxy-propionamide | 169 mg, 76.7% | NCC(C(=O)NCC1=CC=CC=C1)O | C10H14N2O2
